US08461149B2
Step 5: (R)-2-chloro-8-((R)-3,3-difluorocyclopentyl)-7-ethyl-7,8-dihydropteridin-6(5H)-one
A mixture of (R)-methyl 2-((2-chloro-5-nitropyrimidin-4-yl)((R)-3,3-difluorocyclopentyl)amino)butanoate (677 mg, 1.787 mmol) and iron powder (179.7 mg, 3.217 mmol) in glacial acetic acid (8 mL) was heated to 70° C. for 1 hours. The reaction mixture was filtered hot and the cake was further washed with acetic acid. The mother liquors were concentrated in vacuo. The residue was taken up in a 15% solution of methanol in dichloromethane and filtered through a path of silica gel rinsing with more methanol-dichloromethane solution. The mother liquors were concentrated in vacuo. The residue was triturated with ethanol and the solid was filtered to afford the desired compound as white solid (348 mg, 61% yield).

reactant | (R)-methyl 2-((2-chloro-5-nitropyrimidin-4-yl)((R)-3,3-difluorocyclopentyl)amino)butanoate | 1.787 mmol, 677 mg | ClC1=NC=C(C(=N1)N([C@@H](C(=O)OC)CC)[C@H]1CC(CC1)(F)F)[N+](=O)[O-] | C14H17ClF2N4O4
solvent | acetic acid | 8 mL | C(C)(=O)O | C2H4O2
catalyst | iron | 3.217 mmol, 179.7 mg | [Fe] | Fe
product | (R)-2-chloro-8-((R)-3,3-difluorocyclopentyl)-7-ethyl-7,8-dihydropteridin-6(5H)-one | 348 mg, 61% yield | ClC1=NC=2N([C@@H](C(NC2C=N1)=O)CC)[C@H]1CC(CC1)(F)F | C13H15ClF2N4O
